* File: G3_MUXI2_N2.pex.netlist.pex
* Created: Wed Mar  9 15:09:58 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G3_MUXI2_N2_VSS 2 4 6 8 10 12 14 29 39 51 55 60 63 68 73 78 83 92 101
+ 110 111 117 123 129 131 136 138 140 141 144 145 146 Vss
c82 146 Vss 4.28045e-19
c83 145 Vss 3.62111e-19
c84 144 Vss 3.75522e-19
c85 141 Vss 0.00260366f
c86 138 Vss 0.00496506f
c87 136 Vss 0.00156482f
c88 131 Vss 0.00130885f
c89 129 Vss 0.0025874f
c90 124 Vss 0.00128107f
c91 123 Vss 0.00657991f
c92 117 Vss 0.0039834f
c93 111 Vss 0.00549375f
c94 110 Vss 0.0044599f
c95 101 Vss 0.00833837f
c96 92 Vss 0.0039597f
c97 83 Vss 2.73987e-19
c98 78 Vss 0.00101545f
c99 73 Vss 0.00217935f
c100 68 Vss 1.35342e-19
c101 63 Vss 7.10513e-22
c102 60 Vss 0.00389683f
c103 55 Vss 0.0017936f
c104 51 Vss 0.00537538f
c105 45 Vss 0.0783825f
c106 39 Vss 0.0354115f
c107 38 Vss 0.0688416f
c108 29 Vss 0.0347733f
c109 28 Vss 0.100982f
c110 14 Vss 0.135207f
c111 10 Vss 0.135463f
c112 6 Vss 0.135561f
c113 4 Vss 0.134971f
r114 137 146 0.551426
r115 137 138 15.5878
r116 136 146 0.551426
r117 135 136 4.58464
r118 131 146 0.0828784
r119 130 145 0.494161
r120 129 138 0.652036
r121 129 130 4.41793
r122 125 145 0.128424
r123 123 135 0.652036
r124 123 124 13.0037
r125 119 124 0.652036
r126 118 144 0.494161
r127 117 145 0.494161
r128 117 118 10.2946
r129 113 144 0.128424
r130 112 140 0.326018
r131 111 144 0.494161
r132 111 112 10.1279
r133 110 140 0.326018
r134 109 141 0.14525
r135 109 110 4.54296
r136 83 131 1.82344
r137 78 101 1.16709
r138 78 125 2.16729
r139 73 119 5.2515
r140 68 92 1.16709
r141 68 113 2.16729
r142 63 141 2.334
r143 60 83 1.16709
r144 55 73 1.16709
r145 51 63 1.16709
r146 45 101 0.0476429
r147 43 45 1.8672
r148 40 43 0.0685365
r149 38 43 0.5835
r150 38 39 2.8008
r151 35 39 0.652036
r152 31 92 0.0476429
r153 29 31 1.45875
r154 28 32 0.652036
r155 28 31 1.45875
r156 25 29 0.652036
r157 14 40 3.8511
r158 12 60 0.185659
r159 10 35 3.8511
r160 8 55 0.185659
r161 6 32 3.8511
r162 4 25 3.8511
r163 2 51 0.185659
.ends

.subckt PM_G3_MUXI2_N2_VDD 2 4 6 8 10 12 14 28 38 52 56 60 62 63 66 68 72 74 75
+ 76 80 81 83 84 86 87 89 98 Vss
c93 98 Vss 0.0111581f
c94 89 Vss 0.0046197f
c95 87 Vss 4.52364e-19
c96 84 Vss 4.42749e-19
c97 83 Vss 0.0021109f
c98 81 Vss 0.00811581f
c99 80 Vss 8.64091e-19
c100 76 Vss 0.00179444f
c101 75 Vss 6.09322e-19
c102 74 Vss 0.00543501f
c103 72 Vss 0.00102525f
c104 68 Vss 0.00843754f
c105 66 Vss 0.00123499f
c106 63 Vss 6.1175e-19
c107 62 Vss 0.00356077f
c108 60 Vss 6.73464e-19
c109 56 Vss 0.00425172f
c110 52 Vss 0.00654171f
c111 44 Vss 1.28925e-19
c112 39 Vss 0.0805856f
c113 38 Vss 0.103898f
c114 29 Vss 0.0367217f
c115 28 Vss 0.101295f
c116 12 Vss 0.134871f
c117 10 Vss 0.00143442f
c118 8 Vss 0.136499f
c119 4 Vss 0.136393f
c120 2 Vss 0.13497f
r121 82 87 0.551426
r122 82 83 4.58464
r123 81 87 0.551426
r124 80 86 0.326018
r125 80 81 15.5878
r126 76 87 0.0828784
r127 76 78 1.82344
r128 74 86 0.326018
r129 74 75 10.1279
r130 72 98 1.16709
r131 70 75 0.652036
r132 70 72 2.16729
r133 69 84 0.494161
r134 68 83 0.652036
r135 68 69 13.0037
r136 64 84 0.128424
r137 64 66 5.2515
r138 62 84 0.494161
r139 62 63 7.46046
r140 60 89 1.16709
r141 58 63 0.652036
r142 58 60 2.16729
r143 56 78 1.16709
r144 52 66 1.16709
r145 44 98 0.0476429
r146 44 46 1.92555
r147 39 46 0.5835
r148 38 40 0.652036
r149 38 39 2.8008
r150 35 46 0.0685365
r151 31 89 0.0476429
r152 29 31 1.45875
r153 28 32 0.652036
r154 28 31 1.45875
r155 25 29 0.652036
r156 14 56 0.185659
r157 12 40 3.8511
r158 10 52 0.185659
r159 8 35 3.8511
r160 6 52 0.185659
r161 4 25 3.8511
r162 2 32 3.8511
.ends

.subckt PM_G3_MUXI2_N2_SELI 2 4 6 8 21 29 33 35 38 43 53 58 72 77 78 Vss
c64 78 Vss 8.06863e-19
c65 72 Vss 0.00199393f
c66 58 Vss 0.00224258f
c67 53 Vss 0.00245485f
c68 43 Vss 9.25008e-19
c69 38 Vss 0.00141078f
c70 36 Vss 0.00169592f
c71 35 Vss 0.00419199f
c72 33 Vss 0.00348196f
c73 29 Vss 0.00522942f
c74 21 Vss 0.112066f
c75 6 Vss 0.112066f
c76 4 Vss 0.00143442f
r77 77 78 0.655813
r78 76 77 3.501
r79 72 76 0.655813
r80 43 53 1.16709
r81 43 72 2.00578
r82 43 46 0.333429
r83 38 58 1.16709
r84 38 78 2.00578
r85 35 46 0.0685365
r86 35 36 7.46046
r87 31 36 0.652036
r88 31 33 7.002
r89 29 33 1.16709
r90 21 58 0.50025
r91 18 53 0.50025
r92 8 21 3.09255
r93 6 18 3.09255
r94 4 29 0.185659
r95 2 29 0.185659
.ends

.subckt PM_G3_MUXI2_N2_SEL 2 4 6 8 16 22 26 37 40 42 46 51 58 63 68 72 77 78 Vss
c64 78 Vss 7.50288e-20
c65 77 Vss 9.69437e-20
c66 72 Vss 8.26714e-19
c67 68 Vss 0.00220099f
c68 63 Vss 0.00251571f
c69 58 Vss 0.00247916f
c70 51 Vss 3.96204e-19
c71 46 Vss 8.47469e-20
c72 42 Vss 0.00123172f
c73 37 Vss 0.00197358f
c74 26 Vss 0.11221f
c75 22 Vss 0.125771f
c76 20 Vss 0.0247918f
c77 17 Vss 0.036952f
c78 16 Vss 0.188224f
c79 8 Vss 0.112066f
c80 2 Vss 0.139232f
r81 76 78 0.655813
r82 76 77 3.501
r83 72 77 0.655813
r84 54 63 1.16709
r85 54 72 2.00578
r86 51 54 0.5835
r87 49 58 1.16709
r88 46 49 0.5835
r89 42 68 1.16709
r90 42 78 2.00578
r91 38 46 0.0685365
r92 38 40 1.45875
r93 37 51 0.0685365
r94 37 40 3.12589
r95 36 58 0.0476429
r96 33 68 0.50025
r97 26 63 0.50025
r98 22 58 0.357321
r99 20 36 0.326018
r100 20 22 0.40845
r101 17 36 6.7686
r102 16 36 0.326018
r103 16 36 0.1167
r104 13 17 0.652036
r105 8 33 3.09255
r106 6 26 3.09255
r107 4 22 3.44265
r108 2 13 3.8511
.ends

.subckt PM_G3_MUXI2_N2_B 2 4 7 16 20 24 27 Vss
c24 27 Vss 0.00705011f
c25 24 Vss 6.61761e-19
c26 20 Vss 0.0287936f
c27 16 Vss 0.0658163f
c28 7 Vss 0.142266f
c29 4 Vss 0.349678f
c30 2 Vss 0.11635f
r31 24 27 1.16709
r32 16 27 0.50025
r33 16 18 1.9839
r34 12 20 0.494161
r35 9 20 0.494161
r36 8 18 0.0685365
r37 7 20 0.128424
r38 7 8 4.7847
r39 4 12 11.0281
r40 2 9 3.20925
.ends

.subckt PM_G3_MUXI2_N2_Z 2 4 6 8 23 27 30 33 Vss
c32 30 Vss 0.00368622f
c33 27 Vss 0.00747653f
c34 23 Vss 0.00756091f
c35 8 Vss 0.00143442f
c36 6 Vss 0.00143442f
r37 33 35 5.91836
r38 30 33 5.08479
r39 27 35 1.16709
r40 23 30 1.16709
r41 8 27 0.185659
r42 6 23 0.185659
r43 4 27 0.185659
r44 2 23 0.185659
.ends

.subckt PM_G3_MUXI2_N2_A 2 4 14 17 23 Vss
c23 23 Vss 0.00453252f
c24 17 Vss 3.94005e-19
c25 14 Vss 0.0840432f
c26 12 Vss 1.30835e-19
c27 2 Vss 0.557463f
r28 20 23 1.16709
r29 17 20 0.0416786
r30 12 23 0.0476429
r31 12 14 1.92555
r32 7 14 0.0685365
r33 2 4 15.4044
r34 2 7 3.8511
.ends

