* File: G3_MUXI2_N3.pex.netlist.pex
* Created: Wed Mar  9 15:24:03 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G3_MUXI2_N3_VSS 2 4 6 8 10 12 14 29 39 51 55 60 63 68 73 78 83 92 101
+ 110 115 121 127 133 135 140 142 144 145 146 147 Vss
c77 147 Vss 4.28045e-19
c78 146 Vss 3.62111e-19
c79 145 Vss 3.75522e-19
c80 142 Vss 0.00603414f
c81 140 Vss 0.00196409f
c82 135 Vss 0.00134915f
c83 133 Vss 0.00261859f
c84 128 Vss 0.00128551f
c85 127 Vss 0.00634725f
c86 121 Vss 0.00397667f
c87 115 Vss 0.00552282f
c88 111 Vss 0.00129855f
c89 110 Vss 0.00492065f
c90 101 Vss 0.00967583f
c91 92 Vss 0.00411469f
c92 83 Vss 2.01624e-19
c93 78 Vss 0.0013136f
c94 73 Vss 0.00223792f
c95 68 Vss 4.13309e-19
c96 63 Vss 0.00127305f
c97 60 Vss 0.00806368f
c98 55 Vss 0.00637385f
c99 51 Vss 0.0100822f
c100 45 Vss 0.0783825f
c101 39 Vss 0.0354115f
c102 38 Vss 0.0688416f
c103 29 Vss 0.0347733f
c104 28 Vss 0.101002f
c105 14 Vss 0.189925f
c106 10 Vss 0.190498f
c107 6 Vss 0.190106f
c108 4 Vss 0.189513f
r109 141 147 0.551426
r110 141 142 18.3386
r111 140 147 0.551426
r112 139 140 5.50157
r113 135 147 0.0828784
r114 134 146 0.494161
r115 133 142 0.652036
r116 133 134 4.41793
r117 129 146 0.128424
r118 127 139 0.652036
r119 127 128 13.0037
r120 123 128 0.652036
r121 122 145 0.494161
r122 121 146 0.494161
r123 121 122 10.2946
r124 117 145 0.128424
r125 116 144 0.326018
r126 115 145 0.494161
r127 115 116 10.1279
r128 110 144 0.326018
r129 109 111 0.655813
r130 109 110 5.50157
r131 83 135 1.82344
r132 78 101 1.16709
r133 78 129 2.16729
r134 73 123 6.16843
r135 68 92 1.16709
r136 68 117 2.16729
r137 63 111 1.82344
r138 60 83 1.16709
r139 55 73 1.16709
r140 51 63 1.16709
r141 45 101 0.0476429
r142 43 45 1.8672
r143 40 43 0.0685365
r144 38 43 0.5835
r145 38 39 2.8008
r146 35 39 0.652036
r147 31 92 0.0476429
r148 29 31 1.45875
r149 28 32 0.652036
r150 28 31 1.45875
r151 25 29 0.652036
r152 14 40 5.1348
r153 12 60 0.123773
r154 10 35 5.1348
r155 8 55 0.123773
r156 6 32 5.1348
r157 4 25 5.1348
r158 2 51 0.123773
.ends

.subckt PM_G3_MUXI2_N3_VDD 2 4 6 8 10 12 14 28 38 44 52 56 60 62 63 66 68 72 74
+ 75 76 81 83 84 85 87 89 98 Vss
c91 98 Vss 0.0111734f
c92 89 Vss 0.00463585f
c93 85 Vss 4.52364e-19
c94 84 Vss 4.43941e-19
c95 83 Vss 0.00378478f
c96 81 Vss 0.0102529f
c97 76 Vss 0.00177107f
c98 75 Vss 6.09322e-19
c99 74 Vss 0.0063331f
c100 72 Vss 0.00100496f
c101 68 Vss 0.00791367f
c102 66 Vss 0.00123499f
c103 63 Vss 6.1175e-19
c104 62 Vss 0.00364703f
c105 60 Vss 8.24271e-19
c106 56 Vss 0.00850511f
c107 52 Vss 0.00631561f
c108 39 Vss 0.0806024f
c109 38 Vss 0.103898f
c110 29 Vss 0.0367394f
c111 28 Vss 0.101312f
c112 12 Vss 0.189418f
c113 10 Vss 0.00143493f
c114 8 Vss 0.191033f
c115 4 Vss 0.190935f
c116 2 Vss 0.189512f
r117 83 87 0.326018
r118 82 85 0.551426
r119 82 83 5.50157
r120 81 85 0.551426
r121 80 81 18.3386
r122 76 85 0.0828784
r123 76 78 1.82344
r124 74 80 0.652036
r125 74 75 10.1279
r126 72 98 1.16709
r127 70 75 0.652036
r128 70 72 2.16729
r129 69 84 0.494161
r130 68 87 0.326018
r131 68 69 13.0037
r132 64 84 0.128424
r133 64 66 6.16843
r134 62 84 0.494161
r135 62 63 7.46046
r136 60 89 1.16709
r137 58 63 0.652036
r138 58 60 2.16729
r139 56 78 1.16709
r140 52 66 1.16709
r141 44 98 0.0476429
r142 44 46 1.92555
r143 39 46 0.5835
r144 38 40 0.652036
r145 38 39 2.8008
r146 35 46 0.0685365
r147 31 89 0.0476429
r148 29 31 1.45875
r149 28 32 0.652036
r150 28 31 1.45875
r151 25 29 0.652036
r152 14 56 0.123773
r153 12 40 5.1348
r154 10 52 0.123773
r155 8 35 5.1348
r156 6 52 0.123773
r157 4 25 5.1348
r158 2 32 5.1348
.ends

.subckt PM_G3_MUXI2_N3_SELI 2 4 6 8 21 29 33 35 38 43 53 58 72 77 78 Vss
c62 78 Vss 8.12386e-19
c63 72 Vss 0.00203892f
c64 58 Vss 0.00238787f
c65 53 Vss 0.00260984f
c66 43 Vss 7.43568e-19
c67 38 Vss 0.00160083f
c68 36 Vss 0.00170119f
c69 35 Vss 0.00410624f
c70 33 Vss 0.00348196f
c71 29 Vss 0.00498872f
c72 21 Vss 0.166608f
c73 6 Vss 0.166608f
c74 4 Vss 0.00143493f
r75 77 78 0.655813
r76 76 77 3.501
r77 72 76 0.655813
r78 43 53 1.16709
r79 43 72 2.00578
r80 43 46 0.333429
r81 38 58 1.16709
r82 38 78 2.00578
r83 35 46 0.0685365
r84 35 36 7.46046
r85 31 36 0.652036
r86 31 33 7.91893
r87 29 33 1.16709
r88 21 58 0.50025
r89 18 53 0.50025
r90 8 21 4.37625
r91 6 18 4.37625
r92 4 29 0.123773
r93 2 29 0.123773
.ends

.subckt PM_G3_MUXI2_N3_SEL 2 4 6 8 16 22 26 37 40 42 46 51 58 63 68 72 77 78 Vss
c61 78 Vss 6.45399e-20
c62 77 Vss 9.69437e-20
c63 72 Vss 9.15408e-19
c64 68 Vss 0.00231917f
c65 63 Vss 0.00272254f
c66 58 Vss 0.00263414f
c67 51 Vss 5.38256e-19
c68 46 Vss 2.72603e-19
c69 42 Vss 0.00115861f
c70 37 Vss 0.00194091f
c71 26 Vss 0.166758f
c72 22 Vss 0.180313f
c73 20 Vss 0.0247918f
c74 17 Vss 0.0369697f
c75 16 Vss 0.191525f
c76 8 Vss 0.166608f
c77 2 Vss 0.193774f
r78 76 78 0.655813
r79 76 77 3.501
r80 72 77 0.655813
r81 54 63 1.16709
r82 54 72 2.00578
r83 51 54 0.5835
r84 49 58 1.16709
r85 46 49 0.5835
r86 42 68 1.16709
r87 42 78 2.00578
r88 38 46 0.0685365
r89 38 40 1.45875
r90 37 51 0.0685365
r91 37 40 3.12589
r92 36 58 0.0476429
r93 33 68 0.50025
r94 26 63 0.50025
r95 22 58 0.357321
r96 20 36 0.326018
r97 20 22 0.40845
r98 17 36 6.7686
r99 16 36 0.326018
r100 16 36 0.1167
r101 13 17 0.652036
r102 8 33 4.37625
r103 6 26 4.37625
r104 4 22 4.72635
r105 2 13 5.1348
.ends

.subckt PM_G3_MUXI2_N3_B 2 4 7 16 20 25 28 Vss
c23 28 Vss 0.00703355f
c24 25 Vss 5.28389e-19
c25 20 Vss 0.0287936f
c26 16 Vss 0.0658163f
c27 7 Vss 0.142278f
c28 4 Vss 0.40422f
c29 2 Vss 0.170892f
r30 22 28 1.16709
r31 22 25 0.0364688
r32 16 28 0.50025
r33 16 18 1.9839
r34 12 20 0.494161
r35 9 20 0.494161
r36 8 18 0.0685365
r37 7 20 0.128424
r38 7 8 4.7847
r39 4 12 12.3118
r40 2 9 4.49295
.ends

.subckt PM_G3_MUXI2_N3_Z 2 4 6 8 23 27 30 33 Vss
c32 30 Vss 0.00389294f
c33 27 Vss 0.0072311f
c34 23 Vss 0.0072311f
c35 8 Vss 0.00143493f
c36 6 Vss 0.00143493f
r37 33 35 5.91836
r38 30 33 6.91864
r39 27 35 1.16709
r40 23 30 1.16709
r41 8 27 0.123773
r42 6 23 0.123773
r43 4 27 0.123773
r44 2 23 0.123773
.ends

.subckt PM_G3_MUXI2_N3_A 2 4 12 14 17 23 Vss
c24 23 Vss 0.00593108f
c25 17 Vss 2.08619e-19
c26 14 Vss 0.0835366f
c27 2 Vss 0.666088f
r28 20 23 1.16709
r29 17 20 0.0416786
r30 12 23 0.0476429
r31 12 14 1.92555
r32 7 14 0.0685365
r33 2 4 17.9718
r34 2 7 5.1348
.ends

