* File: G2_NAND2_N1.pex.netlist.pex
* Created: Tue Feb 22 16:31:07 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G2_NAND2_N1_VSS 2 4 6 8 10 20 23 45 50 59 68 69 70 Vss
c27 70 Vss 7.84263e-19
c28 69 Vss 0.00114439f
c29 59 Vss 0.00441797f
c30 50 Vss 5.92201e-19
c31 45 Vss 0.00559837f
c32 38 Vss 0.0299355f
c33 37 Vss 0.0299355f
c34 32 Vss 0.105919f
c35 27 Vss 0.0688517f
c36 23 Vss 6.52493e-20
c37 21 Vss 0.0348456f
c38 20 Vss 0.064644f
c39 10 Vss 0.0834601f
c40 8 Vss 0.0831275f
c41 6 Vss 0.0830428f
c42 4 Vss 0.0828837f
c43 2 Vss 0.00278021f
r44 69 71 0.652036
r45 69 70 1.66714
r46 63 70 0.652036
r47 63 68 9.12761
r48 50 59 1.16709
r49 50 71 2.16729
r50 45 68 4.87639
r51 33 38 0.494161
r52 32 34 0.652036
r53 32 33 2.9175
r54 29 38 0.128424
r55 28 37 0.494161
r56 27 38 0.494161
r57 27 28 2.8008
r58 24 37 0.128424
r59 23 59 0.238214
r60 21 23 1.4004
r61 20 37 0.494161
r62 20 23 1.5171
r63 17 21 0.652036
r64 10 34 2.5674
r65 8 29 2.5674
r66 6 17 2.5674
r67 4 24 2.5674
r68 2 45 1.16709
.ends

.subckt PM_G2_NAND2_N1_VDD 2 4 6 15 17 31 33 34 35 42 44 50 Vss
c43 50 Vss 0.00511687f
c44 42 Vss 0.00686567f
c45 40 Vss 0.00174586f
c46 35 Vss 0.00426091f
c47 34 Vss 8.36616e-19
c48 33 Vss 0.00735566f
c49 31 Vss 0.00189708f
c50 17 Vss 0.184529f
c51 15 Vss 0.0364084f
c52 6 Vss 0.00252742f
c53 4 Vss 0.00226556f
c54 2 Vss 0.0989662f
r55 40 44 0.326018
r56 40 42 4.83471
r57 39 42 7.002
r58 37 50 1.16709
r59 35 39 0.655813
r60 35 37 2.04225
r61 33 44 0.326018
r62 33 34 10.3363
r63 29 34 0.652036
r64 29 31 4.83471
r65 17 50 0.50025
r66 15 17 5.11257
r67 12 15 0.652541
r68 6 42 1.16709
r69 4 31 1.16709
r70 2 12 3.2676
.ends

.subckt PM_G2_NAND2_N1_A 2 4 13 18 21 26 31 Vss
c21 31 Vss 0.00366686f
c22 26 Vss 0.00318863f
c23 18 Vss 0.00132825f
c24 13 Vss 0.0578401f
c25 2 Vss 0.0573541f
r26 23 31 1.16709
r27 21 23 1.91721
r28 18 26 1.16709
r29 18 21 2.9175
r30 13 31 0.50025
r31 10 26 0.50025
r32 4 13 1.80885
r33 2 10 1.80885
.ends

.subckt PM_G2_NAND2_N1_Z 2 4 25 28 Vss
c25 25 Vss 0.00107312f
c26 4 Vss 0.00148239f
c27 2 Vss 0.00149062f
r28 28 30 4.58464
r29 25 28 4.58464
r30 4 30 1.16709
r31 2 25 1.16709
.ends

.subckt PM_G2_NAND2_N1_B 2 4 10 11 14 18 21 Vss
c24 18 Vss 1.08854e-19
c25 14 Vss 0.147604f
c26 11 Vss 0.0356774f
c27 10 Vss 0.286243f
c28 2 Vss 0.174968f
r29 18 21 0.0416786
r30 14 18 1.16709
r31 12 14 2.8008
r32 10 12 0.652036
r33 10 11 8.92755
r34 7 11 0.652036
r35 4 14 3.0342
r36 2 7 5.835
.ends

