* File: G2_NAND2_N2.pex.netlist.pex
* Created: Fri Feb 25 16:38:49 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G2_NAND2_N2_VSS 2 3 5 6 8 18 19 21 41 47 52 61 68 73 74 Vss
c28 74 Vss 8.01054e-19
c29 73 Vss 0.00222032f
c30 69 Vss 0.00133128f
c31 68 Vss 0.00979385f
c32 61 Vss 0.00460027f
c33 52 Vss 0.00163484f
c34 47 Vss 0.00135376f
c35 41 Vss 0.00500207f
c36 38 Vss 0.0299355f
c37 37 Vss 0.0299355f
c38 32 Vss 0.105904f
c39 26 Vss 0.0688517f
c40 21 Vss 5.38535e-20
c41 19 Vss 0.0340588f
c42 18 Vss 0.064644f
c43 8 Vss 0.138428f
c44 6 Vss 0.137392f
c45 5 Vss 0.138084f
c46 3 Vss 0.137146f
r47 73 75 0.652036
r48 73 74 4.33457
r49 66 74 0.652036
r50 66 68 7.66886
r51 65 69 0.655813
r52 65 68 8.96089
r53 52 61 1.16709
r54 52 75 2.16729
r55 47 69 1.82344
r56 41 47 1.16709
r57 33 38 0.494161
r58 32 34 0.652036
r59 32 33 2.9175
r60 28 38 0.128424
r61 27 37 0.494161
r62 26 38 0.494161
r63 26 27 2.8008
r64 22 37 0.128424
r65 21 61 0.238214
r66 19 21 1.4004
r67 18 37 0.494161
r68 18 21 1.5171
r69 15 19 0.652036
r70 8 34 3.8511
r71 6 28 3.8511
r72 5 15 3.8511
r73 3 22 3.8511
r74 2 41 0.185659
.ends

.subckt PM_G2_NAND2_N2_VDD 1 3 5 15 17 22 27 31 32 34 36 37 38 42 47 49 52 58
+ Vss
c41 58 Vss 0.00548438f
c42 50 Vss 9.22237e-19
c43 49 Vss 0.00628406f
c44 47 Vss 0.00776909f
c45 42 Vss 0.00125451f
c46 38 Vss 0.00692242f
c47 37 Vss 8.60438e-19
c48 36 Vss 0.0123084f
c49 34 Vss 0.00177187f
c50 32 Vss 8.19549e-19
c51 31 Vss 0.00243037f
c52 27 Vss 0.00484855f
c53 22 Vss 0.00385756f
c54 17 Vss 0.171989f
c55 15 Vss 0.0339269f
c56 1 Vss 0.117266f
r57 49 52 0.326018
r58 48 50 0.551426
r59 48 49 5.08479
r60 47 50 0.551426
r61 46 47 8.54411
r62 42 50 0.0828784
r63 42 44 1.82344
r64 40 58 1.16709
r65 38 46 0.655813
r66 38 40 4.37625
r67 36 52 0.326018
r68 36 37 15.6711
r69 32 34 1.76818
r70 31 37 0.652036
r71 30 32 0.657751
r72 30 31 5.04311
r73 27 44 1.16709
r74 22 34 1.16709
r75 17 58 0.428786
r76 15 17 5.3682
r77 11 15 0.652036
r78 5 27 0.185659
r79 3 22 0.185659
r80 1 11 3.1509
.ends

.subckt PM_G2_NAND2_N2_A 2 4 13 18 21 26 31 Vss
c20 31 Vss 0.00388303f
c21 26 Vss 0.00333046f
c22 18 Vss 0.00166538f
c23 13 Vss 0.112394f
c24 2 Vss 0.111896f
r25 23 31 1.16709
r26 21 23 2.54239
r27 18 26 1.16709
r28 18 21 2.83414
r29 13 31 0.50025
r30 10 26 0.50025
r31 4 13 3.09255
r32 2 10 3.09255
.ends

.subckt PM_G2_NAND2_N2_Z 2 4 6 18 22 25 28 Vss
c26 25 Vss 0.00212593f
c27 22 Vss 0.00585482f
c28 18 Vss 0.00354571f
c29 6 Vss 0.00143442f
r30 28 30 4.83471
r31 25 28 6.71025
r32 22 30 1.16709
r33 18 25 1.16709
r34 6 22 0.185659
r35 4 22 0.185659
r36 2 18 0.185659
.ends

.subckt PM_G2_NAND2_N2_B 2 4 10 11 14 18 21 Vss
c23 18 Vss 9.58314e-20
c24 14 Vss 0.181262f
c25 11 Vss 0.0357204f
c26 10 Vss 0.288966f
c27 2 Vss 0.281263f
r28 18 21 0.0416786
r29 14 18 1.16709
r30 12 14 2.1006
r31 10 12 0.652036
r32 10 11 8.92755
r33 7 11 0.652036
r34 4 14 4.3179
r35 2 7 8.57745
.ends

